US06281363B1
A solution of 0.045 g of (E)-N-(3-benzyl-2,4,5-trioxo-1-imidazolidinyl]-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-4-methylvaleramide in 2 ml of methanol was treated with 0.010 g of p-toluenesulphonic acid monohydrate and stirred at room temperature for 2 hours. The mixture was diluted with ethyl acetate and washed in sequence with 5% aqueous sodium hydrogen carbonate and saturated aqueous sodium chloride. The organic layer was dried over anhydrous magnesium sulphate and evaporated to give a residue which was triturated with diethyl ether to give 0.032 g of (E)-N-(3-benzyl-2,4,5-trioxo-1-imidazolidinyl]-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-4-methylvaleramide in the form of a white solid.

reactant | (E)-N-(3-benzyl-2,4,5-trioxo-1-imidazolidinyl]-2(R)-[1(S)-[(tetrahydro-2(RS)-pyranyloxy)carbamoyl]-4-phenyl-3-butenyl]-4-methylvaleramide | 0.045 g | C(C1=CC=CC=C1)N1C(N(C(C1=O)=O)NC([C@H](CC(C)C)[C@H](C\C=C\C1=CC=CC=C1)C(NOC1OCCCC1)=O)=O)=O | C32H38N4O7
reactant | p-toluenesulphonic acid monohydrate | 0.010 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-N-(3-benzyl-2,4,5-trioxo-1-imidazolidinyl]-2(R)-[1(S)-(hydroxycarbamoyl)-4-phenyl-3-butenyl]-4-methylvaleramide | 0.032 g | C(C1=CC=CC=C1)N1C(N(C(C1=O)=O)NC([C@H](CC(C)C)[C@H](C\C=C\C1=CC=CC=C1)C(NO)=O)=O)=O | C27H30N4O6
